US07671080B2
A solution of 4M aqueous sodium hydroxide (0.29 ml) was added to a solution of 5-chloro-1-(3-methylbenzyl)-1H-indole-2-carboxylic acid ethyl ester (2.90 g, 8.85 mmol) in ethanol (30 ml) and the reaction heated at 45° C. for 3 h. After concentrating the mixture to 5 ml, a solution of 2M aqueous HCl (2 ml) was added to precipitate the product as a pale solid which was filtered, washed with water (3×30 ml) and dried under vacuum, to afford 5-chloro-1-(3-methylbenzyl)-1H-indole-2-carboxylic acid (2.57 g, 89%).

reactant | sodium hydroxide | 4M, 0.29 ml | [OH-].[Na+]
reactant | 5-chloro-1-(3-methylbenzyl)-1H-indole-2-carboxylic acid ethyl ester | 8.85 mmol, 2.90 g | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Cl)CC1=CC(=CC=C1)C | C19H18ClNO2
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 5-chloro-1-(3-methylbenzyl)-1H-indole-2-carboxylic acid | 2.57 g, 89% | ClC=1C=C2C=C(N(C2=CC1)CC1=CC(=CC=C1)C)C(=O)O | C17H14ClNO2
